US04472408
A mixture of 0.025 mole of 4-(3-trifluoromethylphenyl)-1,2,3,6-tetrahydropyridine, 3.5 ml of triethylamine and 0.025 mole of chloroacetonitrile in 40 ml of ethanol is heated to reflux for 5 hours. The reaction mixture is cooled, concentrated and the residue is taken up with diethyl ether. The ethereal solution thus obtained is filtered, washed with water and dried over anhydrous sodium sulfate. To the solution thus obtained is added a saturated solution of hydrogen chloride in isopropanol. In this way, the 4-(3-trifluoromethylphenyl)-1-cyanomethyl-1,2,3,6-tetrahydropyridine hydrochloride is obtained which, after crystallization in isopropanol, melts at 169°-172° C. Yield 75% of the theoretical.

reactant | 4-(3-trifluoromethylphenyl)-1,2,3,6-tetrahydropyridine | 0.025 mole | FC(C=1C=C(C=CC1)C=1CCNCC1)(F)F | C12H12F3N
reactant | triethylamine | 3.5 ml | C(C)N(CC)CC | C6H15N
reactant | chloroacetonitrile | 0.025 mole | ClCC#N | C2H2ClN
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | isopropanol | C(C)(C)O | C3H8O
product | 4-(3-trifluoromethylphenyl)-1-cyanomethyl-1,2,3,6-tetrahydropyridine hydrochloride | Yield 75% | Cl.FC(C=1C=C(C=CC1)C=1CCN(CC1)CC#N)(F)F | InChI=1S/C14H13F3N2.ClH/c15-14(16,17)13-3-1-2-12(10-13)11-4-7-19(8-5-11)9-6-18;/h1-4,10H,5,7-9H2;1H
